US04666916
(±)-[4aR*,10bS*]-1,3,4,4a,5,10b-Hexahydro-10-hydroxy-2-propyl-2H-[1]benzopyrano[4,3-c]pyridine
To a solution of 0.48 g of diphenylphospine in 4 ml THF under nitrogen at 0° is added 1.38 ml n-butylithium (2.24M in hexane). After 3 min., 0.238 g (±)-[4aR*,10bS*]-1,3,4,4a,5,10b-hexahydro-1-methoxy-2-propyl-2 H-[1]benzopyrano[4,3-c]pyridine in 1 ml THF is added. The mixture is refluxed 2.5 hours. After cooling 8 ml 2N HCl is added and the THF evaporated under reduced pressure. The aqueous phase is extracted with two 10 ml portions of ether, basified with solid NaHCO3 and extracted with six 20 ml portions of CH2Cl2. The CH2Cl2 extracts are dried over Na2SO4, filtered, concentrated under reduced pressure and flash chromatographed with CH2Cl2 /ammonia saturated methanol (20:1) to yield the title compound; m.p. of HCl salt 264°-265° dec.

reactant | diphenylphospine | 0.48 g | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
reactant | (±)-[4aR*,10bS*]-1,3,4,4a,5,10b-hexahydro-1-methoxy-2-propyl-2 H-[1]benzopyrano[4,3-c]pyridine | 0.238 g | COC1N(CC[C@@H]2[C@H]1C1=C(OC2)C=CC=C1)CCC | C16H23NO2
reactant | HCl | 2N, 8 ml | Cl | ClH
reactant | THF | 4 ml | C1CCOC1 | C4H8O
reactant | THF | 1 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (±)-[4aR*,10bS*]-1,3,4,4a,5,10b-Hexahydro-10-hydroxy-2-propyl-2H-[1]benzopyrano[4,3-c]pyridine | OC1=CC=CC2=C1[C@H]1CN(CC[C@H]1CO2)CCC | C15H21NO2
